US06005105
Synthesis of 2-butyl-1-(4-iodobenzyl)imidazol-4,5-dicarboxylic acid represented by the chemical formula
Dimethyl 2-butylimidazol-4,5-dicarboxylic acid (7.12 g, 29.6 mmol) and 4-iodobenzyl bromide (10.56 g, 35.5 mmol) were dissolved in DMF (50 ml), and 60% oily sodium hydride (1.3 g, 32.5 mmol) was added in small portions while stirring at room temperature. The reaction solution was stirred at room temperature for 2 hours and methanol was added to treat excess sodium hydride. Then the reaction solution was neutralized with 2N HCl and the product was extracted with dichloromethane. The extracted solution was dried over sodium sulfate and concentrated in reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:1) to give the titled compound (11.1 g, 82%) as a tan solid (mp:98-99° C., Rf:0.60 silica gel-ethyl acetate/hexane/=1/1). This has the following NMR spectrum.

reactant | Dimethyl 2-butylimidazol-4,5-dicarboxylic acid | 29.6 mmol, 7.12 g | COC(=O)C1=C(N=C(N1)CCCC)C(=O)OC | C11H16N2O4
reactant | 4-iodobenzyl bromide | 35.5 mmol, 10.56 g | IC1=CC=C(CBr)C=C1 | C7H6BrI
reactant | sodium hydride | 32.5 mmol, 1.3 g | [H-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 2-butyl-1-(4-iodobenzyl)imidazol-4,5-dicarboxylic acid | 11.1 g, 82% | C(CCC)C=1N(C(=C(N1)C(=O)O)C(=O)O)CC1=CC=C(C=C1)I | C16H17IN2O4
